US06277873B1
To a solution of ethyl 4-acetylbenzoate (5.12 g, 26.6 mmol) in ether (50 ml) containing aluminium chloride (0.025 g, 0.19 mmol) is added bromine (1.31 ml, 26.6 mmol) and the reaction mixture is stirred for 2 h. The reaction mixture is poured into saturated NaHCO3 solution and stirred for 30 min. and the layers are separated. The organic layer is washed with NaHCO3, H2O, dried over MgSO4, concentrated to half of its volume and refrigerated overnight. The resulting solid is filtered to yield ethyl 4-(2′-bromoacetyl)benzoate (5.89 g, 81.6%) as white crystals.

reactant | ethyl 4-acetylbenzoate | 26.6 mmol, 5.12 g | C(C)(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H12O3
reactant | bromine | 26.6 mmol, 1.31 ml | BrBr | Br2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ether | 50 ml | CCOCC | C4H10O
catalyst | aluminium chloride | 0.19 mmol, 0.025 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | ethyl 4-(2′-bromoacetyl)benzoate | 5.89 g, 81.6% | BrCC(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H11BrO3
